US08895545B2
b) 3-Bromo-7,7-dimethy-6,7-dihydro-9H-5-oxa-1,9-diaza-benzocyclohepten-8-one
To a solution of 3-(2-amino-5-bromo-pyridin-3-yloxy)-2,2-dimethylpropionic acid methyl ester (880 mg, 2.90 mmol) in DMSO (40 mL) was added NaH (60% in oil, 139-mg, 3.48 mmol), and the mixture was stirred overnight at room temperature. The mixture was diluted with water (100 mL), and further stirred for 15 min. The resulting precipitate was collected by filtration to give the title compound (600 mg, 76%) as a white solid: 1H NMR (300 MHz, CDCl3) δ8.34 (br s, 1H), 8.11 (d, J=1.8 Hz, 1H), 7.46 (d, J=1.8 Hz, 1H), 4.01 (s, 2H), 1.32 (s, 6H); ESI M Sm/e 271 (M+H)+.

reactant | 3-(2-amino-5-bromo-pyridin-3-yloxy)-2,2-dimethylpropionic acid methyl ester | 2.90 mmol, 880 mg | COC(C(COC=1C(=NC=C(C1)Br)N)(C)C)=O | C11H15BrN2O3
reactant | NaH | 3.48 mmol, 139-mg | [H-].[Na+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 3-Bromo-7,7-dimethy-6,7-dihydro-9H-5-oxa-1,9-diaza-benzocyclohepten-8-one | 600 mg, 76% | BrC1=CC2=C(NC(C(CO2)(C)C)=O)N=C1 | C10H11BrN2O2
